US05569653
N-[3-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-2-hydroxy-1-propyl]-2,3-dihydro-1H-isoindole dihydrochloride
To a stirred mixture of 1-(3-amino-2-hydroxypropyl-4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine (2.24 g, 7.6 mmol), K2CO3 (1.61 g, 11.7 mmol) in acetonitrile (100 ml) was added α,α-dibromo-o-xylene (1.54 g, 6.1 mmol). The mixture was heated at reflux for 4 hours then cooled. The insolubles were filtered. The dark red solution was concentrated down. The residue was purified by flash chromatography over s silica gel column (SiO2, 30 g; eluted with 1% CH3OH in dichloromethane). The product so obtained weighed 940 mg as an oil. This oil was dissolved in ethanol and was treated with a solution of HCl in ethanol (188 mg of AcCl in ethanol). The dark solids were collected and recrystallized again in ethanol to yield off-white crystals (1.01 g), m.p. 240°-243° C.

reactant | 3-amino-2-hydroxypropyl-4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine | 7.6 mmol, 2.24 g | NC1CN(CCC1C1=NOC2=C1C=CC(=C2)F)CC(C)O | C15H20FN3O2
reactant | K2CO3 | 11.7 mmol, 1.61 g | C(=O)([O-])[O-].[K+].[K+]
reactant | α,α-dibromo-o-xylene | 6.1 mmol, 1.54 g | BrC(C=1C(=CC=CC1)C)Br | C8H8Br2
reactant | HCl | Cl | ClH
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 188 mg | C(C)O | C2H6O
product | N-[3-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-2-hydroxy-1-propyl]-2,3-dihydro-1H-isoindole dihydrochloride | 1.01 g | Cl.Cl.FC1=CC2=C(C(=NO2)C2CCN(CC2)CC(CN2CC3=CC=CC=C3C2)O)C=C1 | InChI=1S/C23H26FN3O2.2ClH/c24-19-5-6-21-22(11-19)29-25-23(21)16-7-9-26(10-8-16)14-20(28)15-27-12-17-3-1-2-4-18(17)13-27;;/h1-6,11,16,20,28H,7-10,12-15H2;2*1H
